US04863952
A 200-ml eggplant-shaped flask equipped with a condenser and a mechanical stirrer was charged with 6.5 g (0.05 mole) of 2-pyrrolidone-5-carboxylic acid, 23.2 g (0.20 mole) of n-heptyl alcohol, a catalytic amount of concentrated sulfuric acid and 40 ml of benzene and the mixture was refluxed for 3.5 hours. The reaction mixture was cooled to room temperature and poured into saturated aqueous NaHCO3, followed by extraction with benzene. Washing, drying, solvent removal and distillation under reduced pressure as performed in the conventional manner gave 7.4 g of yellow 2-pyrrolidone-5-carboxylic acid n-heptyl ester. Boiling point: 186°-188° C./3 mm Hg.

reactant | 2-pyrrolidone-5-carboxylic acid | 0.05 mole, 6.5 g | N1C(CCC1C(=O)O)=O | C5H7NO3
reactant | n-heptyl alcohol | 0.20 mole, 23.2 g | C(CCCCCC)O | C7H16O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 2-pyrrolidone-5-carboxylic acid n-heptyl ester | 7.4 g | C(CCCCCC)OC(=O)C1CCC(N1)=O | C12H21NO3
